US07741329B2
Description 87: (S)-2-[(2,2,2-Trifluoro-ethanoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (S)-2-aminoethylpyrrolidine-1-carboxylic acid tert-butyl ester (1.3 g) in dichloromethane (50 ml) containing triethylamine (1.4 ml) was added trifluoroacetic anhydride (1.6 g) dropwise under argon. After 16 h at ambient temperature the reaction mixture was diluted with dichloromethane and washed with brine. The aqueous layer was extracted with dichloromethane and the combined extracts dried and evaporated. Chromatography of the residue on silica gel eluting with pentane-ethyl acetate mixtures afforded the title compound (1.43 g) as an orange oil. 1H NMR δ: 1.30-1.50 (1H, m), 1.47 (9H, s), 1.60-1.75 (1H, m), 1.80-1.95 (2H, m), 2.00-2.10 (1H, m), 3.22-3.30 (1H, m), 3.30-3.55 (3H, m), 9.03 (1H, br s).

reactant | (S)-2-aminoethylpyrrolidine-1-carboxylic acid tert-butyl ester | 1.3 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CCN | C11H22N2O2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-2-[(2,2,2-Trifluoro-ethanoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.43 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC(C(F)(F)F)=O | C12H19F3N2O3
